US04387238
Following the procedure of Example 1, monophenyl potassium epoxysuccinate (3.64 g) was successively treated with oxalyl chloride (2.10 g) and aniline (1.4 g) to give 0.82 g of phenyl N-phenyl-2,3-epoxysuccinamate (Compound No. 28) as colorless needles melting at 121° C.

reactant | monophenyl potassium epoxysuccinate | 3.64 g | O1C(C(=O)O)C1C(=O)O.C1(=CC=CC=C1)[K]
reactant | oxalyl chloride | 2.10 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aniline | 1.4 g | NC1=CC=CC=C1 | C6H7N
product | phenyl N-phenyl-2,3-epoxysuccinamate | 0.82 g | C1(=CC=CC=C1)NC(C1C(C(=O)OC2=CC=CC=C2)O1)=O | C16H13NO4
